US04033947
8-acetamido-6-phenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione
2.91 g of 8-amino-6-phenyl-1H-s-triazolo[4,3-a] [1,5]-benzodiazepine-1,5-dione and 1.02 g of acetic anhydride in 50 ml pyridine is stirred for 12 hours then refluxed for 30 minutes. The reaction is evaporated; the residue is taken up in chloroform, washed with dilute aqueous sodium bicarbonate, with water and dried. The solvent is evaporated to give the title compound.

reactant | 8-amino-6-phenyl-1H-s-triazolo[4,3-a] [1,5]-benzodiazepine-1,5-dione | 2.91 g | NC=1C=CC2=C(N(C(C=C3N2C(N=N3)=O)=O)C3=CC=CC=C3)C1 | C16H11N5O2
reactant | acetic anhydride | 1.02 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 8-acetamido-6-phenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione | C(C)(=O)NC=1C=CC2=C(N(C(C=C3N2C(N=N3)=O)=O)C3=CC=CC=C3)C1 | C18H13N5O3
